US08247403B2
(1) N-benzyl-6-bromo-2-fluoro-N-(2-hydroxyethyl)benzamide
A solution of 6-bromo-2-fluorobenzoic acid (10.0 g, 45.7 mmol) and N,N-dimethylformamide (0.100 ml) in thionylchloride (40 ml) was stirred at 85° C. for 12 hr, and the solvent was evaporated under reduced pressure. The residue was added to a solution of N-benzylethanolamine (6.91 g, 45.7 mmol) and triethylamine (9.55 ml, 68.6 mmol) in tetrahydrofuran (100 ml) under ice-cooling, and the mixture was stirred for 1 hr under ice-cooling and at room temperature for 1 hr. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to give the desired product (15.7 g, 97.5%) as an oil.

reactant | 6-bromo-2-fluorobenzoic acid | 45.7 mmol, 10.0 g | BrC1=CC=CC(=C1C(=O)O)F | C7H4BrFO2
reactant | N,N-dimethylformamide | 0.100 ml | CN(C=O)C | C3H7NO
reactant | N-benzylethanolamine | 45.7 mmol, 6.91 g | C(C1=CC=CC=C1)NCCO | C9H13NO
reactant | triethylamine | 68.6 mmol, 9.55 ml | C(C)N(CC)CC | C6H15N
solvent | thionylchloride | 40 ml | S(=O)(Cl)Cl | Cl2OS
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | N-benzyl-6-bromo-2-fluoro-N-(2-hydroxyethyl)benzamide | 15.7 g, 97.5% | C(C1=CC=CC=C1)N(C(C1=C(C=CC=C1Br)F)=O)CCO | C16H15BrFNO2
